### PR TITLE
[Merged by Bors] - feat(Topology/order/IntermediateValue): continuous induction from sSup membership

### PR DESCRIPTION
**Pull request by benjub**
Add `mem_of_csSup_mem_of_forall_exists_gt`, that generalizes `IsClosed.mem_of_ge_of_forall_exists_gt` by weakening the closedness hypothesis to membership of the supremum.  Derive `IsClosed.mem_of_ge_of_forall_exists_gt` from it.

---

This result was already in essence in `IsClosed.mem_of_ge_of_forall_exists_gt`, which uses closedness only to obtain membership of the supremum.

This new result does not require `[TopologicalSpace α] [OrderTopology α]` (it is purely order-theoretic), but I still placed it next to `IsClosed.mem_of_ge_of_forall_exists_gt`.  I am open to moving it to another file if the reviewer sees fit.

There are cases where that more general lemma is needed, because closedness either does not hold or would be longer to prove. For instance, I need that generalization to shorten the proof in the draft PR #41552.

### CODE REVIEW

**Comment by benjub** [comment]
> If you haven't already done so, please come to https://leanprover.zulipchat.com/, introduce yourself, and mention your new PR.

Done at [#new members > Introduction and first PR in elementary analysis](https://leanprover.zulipchat.com/#narrow/channel/113489-new-members/topic/Introduction.20and.20first.20PR.20in.20elementary.20analysis/with/609629935).

File: Mathlib/Topology/Order/IntermediateValue.lean [hunk 1]
```diff
@@ -306,22 +306,32 @@ In this section we prove that a closed interval (hence, any `OrdConnected` set)
...
-  exact not_lt_of_ge (le_csSup Sbd ⟨xs, le_trans (le_csSup Sbd ha) (le_of_lt cx), xb⟩) cx
+  exact not_lt_of_ge (le_csSup Sbd ⟨xs, hac.trans cx.le, xb⟩) cx
+
+/-- A "continuous induction principle" for a closed interval: if a set `s` meets `[a, b]`
+on a closed subset, contains `a`, and the set `s ∩ [a, b)` has no maximal point, then `b ∈ s`. -/
+theorem IsClosed.mem_of_ge_of_forall_exists_gt {a b : α} {s : Set α} (hs : IsClosed (s ∩ Icc a b))
+    (ha : a ∈ s) (hab : a ≤ b) (hgt : ∀ x ∈ s ∩ Ico a b, (s ∩ Ioc x b).Nonempty) : b ∈ s := by
+  replace hs : sSup (s ∩ Icc a b) ∈ s :=
+    (hs.csSup_mem ⟨_, ha, left_mem_Icc.2 hab⟩ ⟨b, fun _ hx ↦ hx.2.2⟩).1
+  exact mem_of_csSup_mem_of_forall_exists_gt hs ha hab hgt
```
Comment (themathqueen) [inline Mathlib/Topology/Order/IntermediateValue.lean]:
```suggestion
    (ha : a ∈ s) (hab : a ≤ b) (hgt : ∀ x ∈ s ∩ Ico a b, (s ∩ Ioc x b).Nonempty) : b ∈ s :=
  mem_of_csSup_mem_of_forall_exists_gt
    (hs.csSup_mem ⟨_, ha, left_mem_Icc.2 hab⟩ ⟨b, fun _ hx ↦ hx.2.2⟩).1 ha hab hgt
```

File: Mathlib/Topology/Order/IntermediateValue.lean [hunk 2]
```diff
@@ -308,22 +308,31 @@ In this section we prove that a closed interval (hence, any `OrdConnected` set)
...
-
-/-- A "continuous induction principle" for a closed interval: if a set `s` meets `[a, b]`
-on a closed subset, contains `a`, and the set `s ∩ [a, b)` has no maximal point, then `b ∈ s`. -/
-theorem IsClosed.mem_of_ge_of_forall_exists_gt {a b : α} {s : Set α} (hs : IsClosed (s ∩ Icc a b))
+omit [TopologicalSpace α] [OrderTopology α] in
+/-- A version of the continuous induction principle `IsClosed.mem_of_ge_of_forall_exists_gt` where
+closedness is weakened to membership of the supremum: if `a ∈ s`, the supremum of `s ∩ [a, b]`
+belongs to `s`, and `s ∩ [a, b)` has no maximal point, then `b ∈ s`. -/
+theorem mem_of_csSup_mem_of_forall_exists_gt {a b : α} {s : Set α} (hs : sSup (s ∩ Icc a b) ∈ s)
     (ha : a ∈ s) (hab : a ≤ b) (hgt : ∀ x ∈ s ∩ Ico a b, (s ∩ Ioc x b).Nonempty) : b ∈ s := by
```
Comment (j-loreaux) [inline Mathlib/Topology/Order/IntermediateValue.lean:316]: Hmmm... I'm not convinced we need this. If you can already prove that `sSup (s ∩ Icc a b) ∈ s`, then that's most of the battle. All you need to know then is that `IsLUB (s ∩ Icc a b) b`, and the latter follows pretty quickly from `hgt` and the fact that clearly `b ∈ upperBounds (s ∩ Icc a b)`.

So, *if anything*, I think the statement should be:
```lean
example {a b : α} {s : Set α}
    (ha : a ∈ s) (hab : a ≤ b) (hgt : ∀ x ∈ s ∩ Ico a b, (s ∩ Ioc x b).Nonempty) : IsLUB (s ∩ Icc a b) b
```
But like I said, I'm not convinced we need this at all. If you agree, please close the PR. If not, please respond with a more thorough explanation of why you believe this lemma is necessary / useful.

Comment (benjub) [reply Mathlib/Topology/Order/IntermediateValue.lean:316]: Thanks for the review. Unless I'm missing something, the statement you propose seems to be false: take in the reals a=0, b=2, and s=[0,1). Indeed, the hypothesis (hgt) is weak: it quantifies on points which are in s \cap [a,b), and not merely in [a,b). In order to apply hgt at the supremum of s \cap [a,b], you need to know that this supremum is in s, which is precisely hs.

This weak form of hgt is essential for my application in #41552: there, I have defined a set J = {x \in [a, b] | g x \leq f x - f a}, and the "continuous induction step" at some x does require x \in J. Also, the function g is not continuous, so I do not know a priori that J is closed, and the existing "continuous induction lemmas" are therefore not applicable. However, sup J \in J is much easier to prove since g is non-increasing (and f continuous), hence my lemma is applicable.

For some context: I first proved the theorem in #41552 with that lemma inlined (that is the current state of that draft). I was advised in https://leanprover.zulipchat.com/#narrow/channel/113489-new-members/topic/Introduction.20and.20first.20PR.20in.20elementary.20analysis/near/609339182 to extract lemmas to shorten the proof, and this lemma looked like a natural candidate to me, especially since it is similar to the neighbouring continuous induction lemmas in this file, which have the same conclusion b \in s. I was also advised there to make smaller PRs, which is why I'm making this separate PR here. I have a much shortened #41552 on a local branch and can push it if you'd prefer to see it as an application of this lemma.

Maybe in your example, you meant to prove instead the purely order-theoretic part of my lemma, which is closer to
```
example {a b c : α} {s : Set α}
  (hc : IsGreatest (s ∩ Icc a b) c) (hgt : ∀ x ∈ s ∩ Ico a b, (s ∩ Ioc x b).Nonempty) : c = b
```
It is indeed more general (fewer hypotheses, and a partial order is sufficient), but the hypothesis hc is slightly longer to prove, and it has an "extra" variable c. It would not really fit with the other "continuous induction lemmas" anymore. But if you think that form would be preferable, I could prove it instead (probably in `Order/Bounds/Basic.lean`?).

I would therefore prefer not to close this PR, and merge either the current lemma, or if you prefer, the purely order-theoretic version.

**Comment by benjub** [comment]
-awaiting-author

File: Mathlib/Topology/Order/IntermediateValue.lean (hunk 2 above)
Comment (j-loreaux) [reply Mathlib/Topology/Order/IntermediateValue.lean:316]: :facepalm: I didn't think about this, clearly. I believe what happened is that I realized under the hypotheses that `sSup (s ∩ Icc a b) ∈ s` and `b ∈ s` implies `sSup (s ∩ Icc a b) = b` and so it must be the remainder of the hypotheses that imply this equality, but that's obviously incorrect as you point out.

I still feel like this isn't quite the ideal statement, but let me think about it.

Comment (j-loreaux) [reply Mathlib/Topology/Order/IntermediateValue.lean:316]: okay, what I think I want is this. Let me know what you think.
```lean
theorem isGreatest_inter_Icc_of_csSup_mem_of_forall_exists_gt {a b : α} {s : Set α} (hs : sSup (s ∩ Icc a b) ∈ s) 
    (ha : a ∈ s) (hab : a ≤ b) (hgt : ∀ x ∈ s ∩ Ico a b, (s ∩ Ioc x b).Nonempty) :
    IsGreatest (s ∩ Icc a b) b := by
  have hbdd : BddAbove (s ∩ Icc a b) := bddAbove_Icc.mono inter_subset_right
  have ha' : a ∈ s ∩ Icc a b := by grind
  have key := isLUB_csSup (s := s ∩ Icc a b) ⟨a, ha'⟩ hbdd |>.isGreatest
    ⟨hs, le_csSup hbdd ha', csSup_le ⟨a, ha'⟩ (by grind)⟩
  convert key
  refine eq_of_le_of_not_lt key.1.2.2 (fun h ↦ ?_) |>.symm
  replace h : sSup (s ∩ Icc a b) ∈ s ∩ Ico a b := by grind [key.1.2]
  obtain ⟨x, hx⟩ := hgt _ h
  exact key.2 (by grind) |>.not_gt hx.2.1
```
This gives us access to a lot more API, and you can prove the statement you want as a trivial corollary. I think the `IsClosed` version can get this upgrade too. You can still leave both `b ∈ s` statements.

Comment (benjub) [reply Mathlib/Topology/Order/IntermediateValue.lean]: Thanks for your suggestion: b \in s and `IsGreatest (s ∩ Icc a b) b` are equivalent given `hab`, but it's indeed better to keep the more structured form in the main statement, and then derive the statement I want from it. 

I pushed the new proofs: I kept your name proposal `isGreatest_inter_Icc_of_csSup_mem_of_forall_exists_gt` and I adapted the proof to be similar to the neighboring proofs in the file (tell me if you prefer I change it back to your proof). Then, my initial theorem `mem_of_csSup_mem_of_forall_exists_gt` is now a one-line corollary. As you suggested, I added the corollary `IsClosed.isGreatest_inter_Icc_of_forall_exists_gt` and similarly derived the existing `IsClosed.mem_of_ge_of_forall_exists_gt` from it.

-awaiting-author

**Comment by benjub** [comment]
-awaiting-author

**Review by j-loreaux — COMMENTED** [review]
bors merge
